US04822902
N-(1',1'-dimethyl-3'-methylsulfonyloxyacetonyl)-3,5-dichlorobenzamide
N-(1',1'-dimethyl-3'-hydroxyacetonyl)-3,5-dichlorobenzamide (1.0 gm, 0.00345 m) was dissolved in methylene chloride (25 ml) and diisopropylethylamine (0.44 gm, 0.0035 m) and cooled to about 5° C. under a nitrogen atmosphere. While the solution was stirred magnetically, methanesulfonylchloride (0.475 gm, 0.0041 m) was added dropwise. After its addition, the mixture was stirred about an hour longer while maintaining the temperature at 5°-10° C. The mixture was then poured into ice water (500 ml) containing methylene chloride (100 ml). The organic layer was separated and was washed with cold 1% hydrochloric acid, saturated sodium bicarbonate, water and brine, and then dried over anhydrous potassium carbonate. The solvent was removed and 800 mg of the desired product was obtained.

reactant | N-(1',1'-dimethyl-3'-hydroxyacetonyl)-3,5-dichlorobenzamide | 1.0 gm | CC(C(=O)CO)(C)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C12H13Cl2NO3
reactant | diisopropylethylamine | 0.44 gm | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonylchloride | 0.475 gm | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(1',1'-dimethyl-3'-methylsulfonyloxyacetonyl)-3,5-dichlorobenzamide | 800 mg | CC(C(=O)COS(=O)(=O)C)(C)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C13H15Cl2NO5S
